US05674891
To a solution of 2,4-dibromo-6-tert-butylphenol (5.00 g, 16.2 mmol) in acetone (70 mL) is added 1,2-dibromoethane (2.80 mL, 32.5 mmol) and K2CO3 (6.70 g, 48.7 mmol). The mixture is heated at reflux for 14 h, and then is filtered and evaporated. The residue is purified by chromatography over SiO2 eluting 15 with hexanes. The resulting oil is distilled to give 1,5-dibromo-(2-bromoethoxy)-3-tert-butylbenzene as a pale yellow oil.

reactant | 2,4-dibromo-6-tert-butylphenol | 16.2 mmol, 5.00 g | BrC1=C(C(=CC(=C1)Br)C(C)(C)C)O | C10H12Br2O
reactant | 1,2-dibromoethane | 32.5 mmol, 2.80 mL | BrCCBr | C2H4Br2
reactant | K2CO3 | 48.7 mmol, 6.70 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 1,5-dibromo-(2-bromoethoxy)-3-tert-butylbenzene | BrC1=C(C(=CC(=C1)Br)C(C)(C)C)OCCBr | C12H15Br3O
